


.lib tt
.include '45nm_LP.pm'
.include '45nm_HP.pm'

.subckt mosn d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b nmos w=w l=l m='mult'
.ends


.subckt mosp d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b pmos w=w l=l  m='mult'
.ends


.subckt mosn_h d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b nmos_h w=w l=l m='mult'
.ends


.subckt mosp_h d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b pmos_h w=w l=l  m='mult'
.ends
.endl


.lib mc
.include '45nm_LP.pm'

.subckt mosn d g s b mult='1' w='50e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b nmos w=w l=l delvto=dvtn m='mult*(1+dbetan_op_beta)'
.ends


.subckt mosp d g s b mult='1' w='50e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b pmos w=w l=l delvto=dvtn  m='mult*(1+dbetan_op_beta)'
.ends


.endl
